US07279494B2
IV. isopropyl 3,5-difluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate
A solution of LiAlH4 (26 mL of a 1.0 M THF solution, 26 mmol) was added to a cooled (−78° C.) solution of methyl (2E)-3-{2,6-difluoro-4-[(isopropoxycarbonyl)amino]phenyl}acrylate (7.77 g, 26 mmol) in THF (130 mL). The solution was allowed to warm slowly to −20° C. and maintained at that temperature for 2 hours. The reaction mixture was then quenched by slow addition of saturated NH4Cl and then treated with 30 mL of dilute citric acid. The resulting mixture was stirred for 15 minutes and then extracted with three portions of ethyl acetate. Combined organic phases were washed with H2O, brine and dried (MgSO4), filtered and concentrated to give a red oil. The crude product was purified by column chromatography (0-1% methanol-dichloromethane) to afford the title compound as a yellow oil.

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl (2E)-3-{2,6-difluoro-4-[(isopropoxycarbonyl)amino]phenyl}acrylate | 26 mmol, 7.77 g | FC1=C(C(=CC(=C1)NC(=O)OC(C)C)F)/C=C/C(=O)OC | C14H15F2NO4
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | isopropyl 3,5-difluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate | FC=1C=C(C=C(C1\C=C\CO)F)NC(OC(C)C)=O | C13H15F2NO3
